US06268387B1
3-[4-(4,4-Dimethyl-4,5-dihydro-oxazol-2-yl)-phenylamino]-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure of Example 25 using 3-amino-4-methoxy-N-phenyl-benzamide (1.6 g, 6.6 mmol), tris[4-(4,4-dimethyl-2-oxazolinyl)-phenyl]bismuthine (4.8 g, 6.6 mmol), copper(II) acetate (1.2 g, 6.6 mmol), and triethylamine (0.67 g, 6.6 mmol) to afford the product (0.8 g); m.p. 221-222° C. after recrystallization from acetonitrile.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 6.6 mmol, 1.6 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | tris[4-(4,4-dimethyl-2-oxazolinyl)-phenyl]bismuthine | 6.6 mmol, 4.8 g | CC1(N=C(OC1)C1=CC=C(C=C1)[Bi](C1=CC=C(C=C1)C=1OCC(N1)(C)C)C1=CC=C(C=C1)C=1OCC(N1)(C)C)C
reactant | triethylamine | 6.6 mmol, 0.67 g | C(C)N(CC)CC | C6H15N
catalyst | copper(II) acetate | 6.6 mmol, 1.2 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-[4-(4,4-Dimethyl-4,5-dihydro-oxazol-2-yl)-phenylamino]-4-methoxy-N-phenyl-benzamide | 0.8 g | CC1(N=C(OC1)C1=CC=C(C=C1)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC)C | C25H25N3O3
